Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
MR. ___ is a ___ R handed gentleman with a 
past medical history significant for hypertension, 
hyperlipidemia, recently diagnosed prostate carcinoma who 
presents as a trasnfer from ___ after he developed 
acute onsent palpitations and vertigo with vomiting earlier 
today. 

Briefly, the patient awoke around 10:30 AM after his typical 
evening shift where he works as a ___. He made a cup of 
coffee and went to work in his garden to plant some flowers. 
Around 12;30pm he came back into the kitchen and ate some cereal 
and fruit then proceeded to go back outside. Around 1pm, he saw 
that his friend stopped by to visit. He went to climb up two 
stairs in his backyard to greet his friend when he lost his 
balance on the step. He then immediately felt the acute onset of 
severe nausea and dizziness that he describes as room spinning. 
He could not stay standing up and had to sit onthe steps. 
Keeping his eyes open made the vertigo and symptoms worse. He 
also felt palpitations. EMS was called by his friend and he was 
taken to ___. He was found to have a HR of 166 in 
new onset AF with RVR. He was started on diltiazem drip and IV 
heparin drip and medflighted to ___. On EKG at ___ 
___ there was also concern for ?ST depressions and PVCs 
concerning for ACS. 

The patient states that he used to take aspirin but stopped a 
few months ago. He was diagnosed with prostate cancer and was 
getting ready to initiate treatment in a few weeks at ___ 
___. He takes a statin for hypercholesterolemia. He 
has never experienced symptoms liek this before, never had a TIA 
or stroke-like symptoms. No blood clots in the past. No family 
history of strokes. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness,  
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies , diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits.  No dysuria.  
Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1. Recently diagnosed prostate cancer
2. Hyperlipidemia
 
Social History:
___
Family History:
Father passed away from ___ at ___ years old. Brother with bladder 
cancer. 

 
Physical Exam:
===============
ADMISSION EXAM:
===============
General: Lying with eyes closed, vomiting profusely. Cannot keep 
eyes open for long
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x self, date, location. Able to 
relate history without difficulty.  Language is fluent with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Speech was not dysarthric. Able to follow 
both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Nystagmus to the R 
on primary gaze. Significant R beating nystagmus on R gaze and 
upward gaze. No nystagmus on L gaze. Eyes conjugate no skew.  
Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    
 5   
R  5     5    5   5       5     5   5        5        5     5    
 5   

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. + dysmetria on FNF also patient could not open eyes 
for long time 

-Gait: Deferred due to symptoms  

===============
DISCHARGE EXAM:
===============

24 HR Data (last updated ___ @ ___
    Temp: 98.4 (Tm 98.4), BP: 130/85 (130-138/75-85), HR: 75
(72-75), RR: 18, O2 sat: 97% (96-97)  
General: lying in bed, mildly uncomfortable with dry heaving
CV: warm and well-perfused
Resp: breathing comfortably in room air

Mental status: awake and alert, provides coherent history,
language is fluent without paraphasic errors

Cranial nerves: pupils equal and reactive bilaterally,
right-beating and torsional nystagmus on primary gaze and right
end-gaze, face activates symmetrically

Motor: no drift, no orbiting, antigravity in all extremities

Coordination: FNF without dysmetria on right, past pointing on
mirror test on right>left

 
Pertinent Results:
====================
STROKE RISK FACTORS:
====================
___ 05:50AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:50AM BLOOD %HbA1c-5.8 eAG-120
___ 05:50AM BLOOD Triglyc-79 HDL-53 CHOL/HD-3.4 LDLcalc-109
___ 05:50AM BLOOD TSH-0.98

========
IMAGING:
========
Brain MRI normal.

Echo:
No intracardiac source of thromboembolism identified. Biatrial 
enlargement. Low normal biventricular global systolic function. 
Mild aortic regurgitation. Mild to moderate mitral 
regurgitation. Moderate pulmonary hypertension.
EF 51%
 
Brief Hospital Course:
================
PATIENT SUMMARY:
================
___ year old man with prostate cancer and hld presenting with 
acute onset vertigo vomiting and new onset rapid atrial 
flutter/afib with RVR. MRI negative, suspect MRI-negative small 
cerebellar stroke.

=====================
ACUTE MEDICAL ISSUES:
=====================
#Suspected MRI-negative cerebellar stroke: 
Exam notable for right beating nystagmus and mild dysmetria. 
Stroke work-up included echo (no cardioembolic source of stroke, 
EF 51%, moderate pulmonary hypertension), lipid panel (LDL 109), 
hgbA1c (5.8%). Patient was started on Apixaban for long-term 
anti-coagulation, and his statin regimen was intensified.

He was evaluated by ___, who recommended discharge home after 
several ___ sessions. They also recommend home ___. On discharge 
he had mild right dysmetria.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done 
2. DVT Prophylaxis administered? (X) Yes
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes 
4. LDL documented? (X) Yes (LDL = 109) 
5. Intensive statin therapy administered? (X) Yes 
6. Smoking cessation counseling given? (X) No [reason (X) 
non-smoker] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes 
9. Discharged on statin therapy? (X) Yes 
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Anticoagulation] 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes 

TRANSITIONAL ISSUES: 
====================
[] transition diltiazem to ER if dosing stable on follow-up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. bicalutamide 50 mg oral DAILY 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Diltiazem 30 mg PO TID 
RX *diltiazem HCl [Cardizem] 30 mg 1 tablet(s) by mouth three 
times a day Disp #*90 Tablet Refills:*0 
4.  bicalutamide 50 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
MRI negative stroke
Atrial flutter
Prostate cancer
Pulmonary hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of vertigo resulting from 
an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: atrial flutter, cancer.

We are changing your medications as follows:  
- You were started on Apixaban 5 mg twice daily.
- You were started on Atorvastatin 40 mg daily.

Please take your other medications as prescribed. Do not take 
"NSAID" medications as these can increase your risk of bleeding 
while on apixiban. 

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___